US09340538B2
Step D: Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1-(2-ethoxy-2-oxoethyl)-1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate
Ethyl 4-(2-bromo-4-fluorophenyl)-2-(1-(2-ethoxy-2-oxoethyl)-1H-1,2,4-triazol-3-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate (0.45 g, 0.91 mmol) was reacted with NBS (0.16 g, 0.91 mmol) according to the procedure as described in Example 1, Step B to give the title compound as a yellow solid (0.36 g, 69%). The compound was characterized by the following spectroscopic data:

reactant | Ethyl 4-(2-bromo-4-fluorophenyl)-2-(1-(2-ethoxy-2-oxoethyl)-1H-1,2,4-triazol-3-yl)-6-methyl-1,4-dihydropyrimidine-5-carboxylate | 0.91 mmol, 0.45 g | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)C)C1=NN(C=N1)CC(=O)OCC | C20H21BrFN5O4
reactant | NBS | 0.91 mmol, 0.16 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | Ethyl 4-(2-bromo-4-fluorophenyl)-6-(bromomethyl)-2-(1-(2-ethoxy-2-oxoethyl)-1H-1,2,4-triazol-3-yl)-1,4-dihydropyrimidine-5-carboxylate | 0.36 g, 69% | BrC1=C(C=CC(=C1)F)C1N=C(NC(=C1C(=O)OCC)CBr)C1=NN(C=N1)CC(=O)OCC | C20H20Br2FN5O4
